US09024027B2
A mixture of 2-(6-(N-(tert-butoxycarbonyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetic acid (0.234 g, 0.606 mmol), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (0.212 g, 0.505 mmol), EDC (0.290 g, 1.514 mmol) and DMAP (0.031 g, 0.252 mmol) in DCM (15 ml) was stirred at room temperature for 2 hours. The mixture was diluted with DCM and washed with 1N HCl, 1N NaHCO3 and brine. The organic phase was dried over sodium sulfate and the solvent was removed. The crude was purified by flash chromatography on silica gel cartridge (DCM:MeOH=99:1) affording (S)-4-(2-(2-(6-(N-(tert-butoxycarbonyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (0.200 g, 0.254 mmol, 50% yield). MS/ESI+ 787.8 [MH]+.

reactant | 2-(6-(N-(tert-butoxycarbonyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetic acid | 0.606 mmol, 0.234 g | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CC2=C(N(C(O2)=O)CC(=O)O)C=C1 | C15H18N2O8S
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.505 mmol, 0.212 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 1.514 mmol, 0.290 g
catalyst | DMAP | 0.252 mmol, 0.031 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-(2-(2-(6-(N-(tert-butoxycarbonyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.254 mmol, 0.200 g, 50% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CC2=C(N(C(O2)=O)CC(=O)O[C@@H](CC2=C(C=[N+](C=C2Cl)[O-])Cl)C2=CC(=C(C=C2)OC(F)F)OCC2CC2)C=C1 | C33H33Cl2F2N3O11S
